US04487929
0.8 g of tert.butyl hexahydro-2-[(N-hydroxycarbamoyl)-methyl]-2-methyl-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate was treated with 10 ml of trifluoroacetic acid for 1 hour and the mixture was then evaporated. The residue was treated with 5 ml of ethyl acetate and the mixture was evaporated. Trituration of the residue with 1,2-dimethoxy-ethane and recrystallization from methanol/water yielded 0.21 g of hexahydro-2-[(N-hydroxycarbamoyl)methyl]-2-methyl-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylic acid having a melting point of 254° C. (decomposition).

reactant | tert.butyl hexahydro-2-[(N-hydroxycarbamoyl)-methyl]-2-methyl-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate | 0.8 g | ONC(=O)CC1(C(N2N(CCCC2C(=O)OC(C)(C)C)C1=O)=O)C | C15H23N3O6
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | hexahydro-2-[(N-hydroxycarbamoyl)methyl]-2-methyl-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylic acid | 0.21 g | ONC(=O)CC1(C(N2N(CCCC2C(=O)O)C1=O)=O)C | C11H15N3O6
